US09334267B2
1-(3,3-Dimethylbutyl)-3-(2-fluoro-4-methyl-5-(7-methyl-2-(methylthio)pyrido[2,3-d]pyrimidin-6-yl)phenyl)urea
Combine 1-(3,3-dimethylbutyl)-3-(2-fluoro-4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)urea (0.669 g, 1.768 mmol), 7-methyl-2-(methylthio)pyrido[2,3-d]pyrimidin-6-yl trifluoromethanesulfonate (0.6 g, 1.768 mmol), K2CO3 (0.733 g, 5.30 mmol) and Pd(PPh3)4 (0.102 g, 0.088 mmol) in dioxane (8 mL) and water (2 mL) in a pressure tube, sparge with argon, seal and heat at 100° C. overnight. Cool the mixture to RT, treat with saturated aqueous. NaHCO3 and extract with EtOAc (3×). Dry the combined organics over MgSO4, concentrate to dryness and purify via silica gel chromatography (5-100% EtOAc/Hexanes) to afford the title compound (440 mg, 56%). MS (m/z): 442.2 (M+1).

reactant | 1-(3,3-dimethylbutyl)-3-(2-fluoro-4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)urea | 1.768 mmol, 0.669 g | CC(CCNC(=O)NC1=C(C=C(C(=C1)B1OC(C(O1)(C)C)(C)C)C)F)(C)C | C20H32BFN2O3
reactant | 7-methyl-2-(methylthio)pyrido[2,3-d]pyrimidin-6-yl trifluoromethanesulfonate | 1.768 mmol, 0.6 g | FC(S(=O)(=O)OC1=CC2=C(N=C(N=C2)SC)N=C1C)(F)F | C10H8F3N3O3S2
reactant | K2CO3 | 5.30 mmol, 0.733 g | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
solvent | water | 2 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.088 mmol, 0.102 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(3,3-Dimethylbutyl)-3-(2-fluoro-4-methyl-5-(7-methyl-2-(methylthio)pyrido[2,3-d]pyrimidin-6-yl)phenyl)urea | 440 mg, 56% | CC(CCNC(=O)NC1=C(C=C(C(=C1)C1=CC2=C(N=C(N=C2)SC)N=C1C)C)F)(C)C | C23H28FN5OS
